US07001897B2
To a solution of 3-methanesulfonyloxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (607.3 mg, 1.22 mmol) (obtained as described in Reference Example 56(6)) in dimethylformamide (33 ml) was added potassium thioacetate (1.06 g, 7.35 mmol) at room temperature. The reaction mixture was stirred in an oil bath (80° C.) for 7 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed successively with 0.5M aqueous hydrochloric acid solution, saturated aqueous sodium hydrogencarbonate solution, and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (1:2) as the eluant to afford 3-acetylthio-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine (335.8 mg, yield 58%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 1.22 mmol, 607.3 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(NCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H21N5O8S2
reactant | potassium thioacetate | 7.35 mmol, 1.06 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 33 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-{4-[2-(p-nitrobenzyloxycarbonylamino)-ethylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 335.8 mg, yield 58% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(NCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H21N5O6S2
